US06521643B1
A suspension of 3-(4-methylpyridin-2-yloxy)nitrobenzene (0.5 g) in ethanol (5 ml) was hydrogenated over palladium on carbon (10% w/w, 50% wet, 100 mg) under a hydrogen atmosphere for 4 hours. The catalyst was filtered off, and the filtrate was evaporated under reduced pressure to give 3-(4-methylpyridin-2-yloxy)aniline (429 mg).

reactant | 3-(4-methylpyridin-2-yloxy)nitrobenzene | 0.5 g | CC1=CC(=NC=C1)OC=1C=C(C=CC1)[N+](=O)[O-] | C12H10N2O3
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
product | 3-(4-methylpyridin-2-yloxy)aniline | 429 mg | CC1=CC(=NC=C1)OC=1C=C(N)C=CC1 | C12H12N2O
